US05354755
Preparation of 1-(p-Bromophenyl)-3-(3,4-dihydro-4-oxo-3-quinazolinyl)-2-thiourea
4-Bromophenyl isothiocyanate (2.51 g, 11.72 mmol) is added to a mixture of 3-amino-4(3H)quinazolinone (1.72 g, 10.66 mmol) in 1,2-dichloroethane at reflux under a nitrogen atmosphere. The reaction mixture is heated at reflux for 2 days, cooled, washed with ether and filtered. The filter cake is dried to give the title product as a white solid, 2.44 g, mp 189°-190° C.

reactant | 4-Bromophenyl isothiocyanate | 11.72 mmol, 2.51 g | BrC1=CC=C(C=C1)N=C=S | C7H4BrNS
reactant | 3-amino-4(3H)quinazolinone | 10.66 mmol, 1.72 g | NN1C=NC2=CC=CC=C2C1=O | C8H7N3O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 1-(p-Bromophenyl)-3-(3,4-dihydro-4-oxo-3-quinazolinyl)-2-thiourea | BrC1=CC=C(C=C1)NC(=S)NN1C=NC2=CC=CC=C2C1=O | C15H11BrN4OS
